US08076359B2
Step 3: tert-Butyl (3R,4S)-3-({cyclopropyl[3-(2-methoxyethoxy)-5-(3-methoxy-propyl)benzyl]amino}carbonyl)-4-{4-[2-(2,6-dichloro-4-methylphenoxy)ethoxy]-phenyl}piperidine-1-carboxylate
To a solution of tert-butyl (3R,4S)-3-({cyclopropyl[3-hydroxy-5-(3-methoxy-propyl)benzyl]amino}carbonyl)-4-{4-[2-(2,6-dichloro-4-methylphenoxy)ethoxy]-phenyl}piperidine-1-carboxylate (1 eq.) from the previous step in DMF (0.2 M) was added cesium carbonate (1.3 eq.) and 2-bromoethyl methyl ether (1.6 eq.). The reaction was heated to 80° C. and stirred for 3 h. After cooling to rt, the reaction was diluted with EtOAc. The organic extract was washed with water, brine, dried over MgSO4, and concentrated in vacuo. The crude product was purified by flash column chromatography (SiO2, 50%→65% EtOAc in Hex) to afford the title compound as an oil.

reactant | tert-butyl (3R,4S)-3-({cyclopropyl[3-hydroxy-5-(3-methoxy-propyl)benzyl]amino}carbonyl)-4-{4-[2-(2,6-dichloro-4-methylphenoxy)ethoxy]-phenyl}piperidine-1-carboxylate | 1 eq. | C1(CC1)N(C(=O)[C@H]1CN(CC[C@@H]1C1=CC=C(C=C1)OCCOC1=C(C=C(C=C1Cl)C)Cl)C(=O)OC(C)(C)C)CC1=CC(=CC(=C1)CCCOC)O | C40H50Cl2N2O7
reactant | cesium carbonate | 1.3 eq. | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 2-bromoethyl methyl ether | 1.6 eq. | COCCBr | C3H7BrO
solvent | DMF | 0.2 M | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | tert-Butyl (3R,4S)-3-({cyclopropyl[3-(2-methoxyethoxy)-5-(3-methoxy-propyl)benzyl]amino}carbonyl)-4-{4-[2-(2,6-dichloro-4-methylphenoxy)ethoxy]-phenyl}piperidine-1-carboxylate | C1(CC1)N(C(=O)[C@H]1CN(CC[C@@H]1C1=CC=C(C=C1)OCCOC1=C(C=C(C=C1Cl)C)Cl)C(=O)OC(C)(C)C)CC1=CC(=CC(=C1)CCCOC)OCCOC | C43H56Cl2N2O8
